US05731477
Preparation of 4-difluoromethoxy-3-hydroxybenzaldehyde
3,4-Dihydroxybenzaldehyde (0.50 g, 3.62 mmol, Aldrich), methyl chlorodifluoroacetate (0.52 g, 3.62 mmol, Aldrich) and potassium carbonate (0.50 g, 3.62 mmol) were combined in DMF (5.0 mL) under an argon atmosphere. After stirring at 60°-65° C. for 3 h, DMF was removed in vacuo and the residue was partioned between aqueous 3N HCl and ether. The aqueous layer was extracted three times with ether. The combined organic extracts were washed with water, with brine, were dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography (silica gel, 25% ethyl acetate/hexanes) to provide the title compound as a white solid (0.20 g, 38%). mp 83°-85° C.

reactant | 3,4-Dihydroxybenzaldehyde | 3.62 mmol, 0.50 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | methyl chlorodifluoroacetate | 3.62 mmol, 0.52 g | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | potassium carbonate | 3.62 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 4-difluoromethoxy-3-hydroxybenzaldehyde | 0.20 g, 38% | FC(OC1=C(C=C(C=O)C=C1)O)F | C8H6F2O3
